US05318976
Using the procedure of Example 1, 5-methoxy-6-methoxymethoxyindan-1-one (452 mg, 2.03 mmol) is reacted with 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine (517 mg, 2.03 mmol) to yields 7-methoxymethoxy-8-methoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline. This material is used directly in part (B) without further isolation or purification except for the few milligrams need for NMR and mass spectral studies.

reactant | 5-methoxy-6-methoxymethoxyindan-1-one | 2.03 mmol, 452 mg | COC=1C=C2CCC(C2=CC1OCOC)=O | C12H14O4
reactant | 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine | 2.03 mmol, 517 mg | CC1=CC=C(C=C1)N=CC=1C(=CC2=C(OCO2)C1)N | C15H14N2O2
product | 7-methoxymethoxy-8-methoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline | COCOC=1C(=CC=2CC=3C(=NC=4C=C5C(=CC4C3)OCO5)C2C1)OC | C20H17NO5
